US07087594B2
In 4.2 mL of ethyl acetate was dissolved 1.03 g of 1-{2-[2-(1-benzothiophen-5-yl)ethoxy]ethyl}-3-azetidinol, and to the solution was added 0.86 mL of a 4.76 mol/L dried hydrogen chloride-ethyl acetate solution. The resulting mixture was stirred at room temperature for 1 hour and then at 5° C. for 1 hour. The crystals precipitated were collected by filtration, washed with ethyl acetate and then dried to obtain 0.98 g of 1-{2-[2-(1-benzothiophen-5-yl)ethoxy]ethyl}-3-azetidinol hydrochloride.

reactant | 1-{2-[2-(1-benzothiophen-5-yl)ethoxy]ethyl}-3-azetidinol | 1.03 g | S1C=CC2=C1C=CC(=C2)CCOCCN2CC(C2)O | C15H19NO2S
reactant | hydrogen chloride-ethyl acetate | 4.76 mol/L | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 4.2 mL | C(C)(=O)OCC | C4H8O2
product | 1-{2-[2-(1-benzothiophen-5-yl)ethoxy]ethyl}-3-azetidinol hydrochloride | 0.98 g | Cl.S1C=CC2=C1C=CC(=C2)CCOCCN2CC(C2)O | InChI=1S/C15H19NO2S.ClH/c17-14-10-16(11-14)5-7-18-6-3-12-1-2-15-13(9-12)4-8-19-15;/h1-2,4,8-9,14,17H,3,5-7,10-11H2;1H
